US09290451B2
a) 1-(4,5-Dihydro-oxazol-2-yl)-1-methyl-ethylamine
A mixture of benzyl 2-(oxazol-2-yl)propan-2-ylcarbamate (Example 8 d, 0.63 g) and palladium on carbon (10% w/w, 0.06 g) in ethanol (20 mL) was charged with hydrogen balloon and stirred at room temperature for 2 h. TLC showed the reaction was complete; it was filtered and concentrated to give the product as yellow oil (0.1 g, 33%); MS (EI): m/e=129.1 [M+H]+.

reactant | benzyl 2-(oxazol-2-yl)propan-2-ylcarbamate | 0.63 g | O1C(=NC=C1)C(C)(C)NC(OCC1=CC=CC=C1)=O | C14H16N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.06 g | [Pd] | Pd
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1-(4,5-Dihydro-oxazol-2-yl)-1-methyl-ethylamine | 0.1 g, 33% | O1C(=NCC1)C(C)(C)N | C6H12N2O
